US07176312B2
Aniline coupling: A 10 mL flame-dried Schlenk flask equipped with a magnetic stir bar was charged with 2-chloro-6-(4-methoxybenzylamino)-9-isopropylpurine (0.193 g, 0.5 mmol, 1.0 equiv), 4-methoxyaniline (0.092 g, 0.75 mmol, 1.5 equiv), Pd2(dba)3 (0.0069 g, 0.0075 mmol, 0.015 equiv.), ligand 1 (0.0051 g, 0.015 mmol, 0.03 equiv.) and KOtBu (0.112 g, 1.0 mmol, 2.0 equiv.). The Schlenk flask was evacuated and backfilled with argon and charged with anhydrous 1,4-dioxane (2.0 mL). The reaction was stirred under argon at 80° C. and monitored by TLC. When the reaction was complete after 8 hours, the solvent was removed in vacuo and the reaction crude was purified by flash column chromatography (3% methanol in dichloromethane) to afford desired 2-(4-methoxyphenylamino)-6-(4-methoxybenzylamino)-9-isopropylpurine (203 mg, 97%): 1H NMR (500 MHz, CDCl3) δ 1.54 (d, 6H, J=6.6 Hz), 3.76 (s, 3H), 3.78 (s, 3H), 4.66 (m, 1H, J=6.6 Hz), 4.72 (br, 2H), 6.06 (br, 1H), 6.60 (br, 1H), 6.82 (d, 2H, J=13 Hz), 6.84 (d, 2H, J=13 Hz), 7.09 (s, 1H), 7.26 (d, 2H, J=8.8 Hz), 7.42 (s, 1H), 7.56 (d, 2H, J=8.8 Hz); HRMS (MALDI-FTMS) [MH+] C23H27N6O2 419.2195, found: 419.2209.

reactant | 2-chloro-6-(4-methoxybenzylamino)-9-isopropylpurine | 0.5 mmol, 0.193 g, 1.0 equiv | ClC1=NC(=C2N=CN(C2=N1)C(C)C)NCC1=CC=C(C=C1)OC | C16H18ClN5O
reactant | 4-methoxyaniline | 0.75 mmol, 0.092 g, 1.5 equiv | COC1=CC=C(N)C=C1 | C7H9NO
reactant | KOtBu | 1.0 mmol, 0.112 g, 2.0 equiv. | CC(C)(C)[O-].[K+]
catalyst | Pd2(dba)3 | 0.0075 mmol, 0.0069 g, 0.015 equiv. | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 2-(4-methoxyphenylamino)-6-(4-methoxybenzylamino)-9-isopropylpurine | 203 mg, 97% | COC1=CC=C(C=C1)NC1=NC(=C2N=CN(C2=N1)C(C)C)NCC1=CC=C(C=C1)OC | C23H26N6O2
